US07576215B2
4-({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOXY}METHYL)-1H-ISOCHROMEN-1-ONE
The title compound was prepared from [4-(3-hydroxyphenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone and 4-Bromomethyl-isochromen-1-one following the procedure of Example 478: MS (ESI) m/z 552; HRMS: calcd for C33H20F3NO4+H+, 552.14172; found (ESI, [M+H]+), 552.1434.

reactant | [4-(3-hydroxyphenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone | OC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H14F3NO2
reactant | 4-Bromomethyl-isochromen-1-one | BrCC1=COC(C2=CC=CC=C12)=O | C10H7BrO2
product | 4-({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOXY}METHYL)-1H-ISOCHROMEN-1-ONE | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(OCC2=COC(C3=CC=CC=C23)=O)C=CC1)C(F)(F)F | C33H20F3NO4
